* C:\Users\Flo\Documents\LTspiceXVII\SParameterExtract.asc
V1 N001 0 AC 1
R1 V1 N001 50
V2 N002 0 AC 0
R2 V2 N002 50
R3 V2 V1 100
C1 V2 0 100n
.ac dec 1000 1 0.3e6
.backanno
.end
